* source LM317LOGICTEST
X_U1         N00046 N00104 N00125 LM317-N_TRANS
Q_Q1         N00104 N00346 0 QbreakN 
D_D1         N00104 N00200 Dbreak 
V_V1         N00046 0 22Vdc
R_R3         N00346 N00117  1k TC=0,0 
R_R4         0 N00200  1Meg TC=0,0 
R_R6         N00104 N00125  18 TC=0,0 
C_C1         0 N00046  0.1u  TC=0,0 
V_V2         N00117 0  
+PULSE 0 0 500ns 0 0 500ns 1000ns
